US07598286B2
Step A: 7-(trifluoromethyl)-1H-indazole
A solution of 2-fluoro-3-trifluoromethylbenzaldehyde (5 g, 26 mmol)), hydrazine hydrate (8.3 mL, 260 mmol) and DMAP (3.17 g, 26 mmol.) in 10 mL pyridine was heated at 100° C. for 24 hours. The cool reaction mixture was partitioned with EtOAc and 1 N HCl. The organic phase was washed with brine and dried with anhydrous sodium sulfate (Na2SO4). The organic phase was concentrated in vacuo to give 4.5 g of product. The crude product was recrystallized from Et2O/hexane to give the title compound (3.6 g, white solid, mp 90° C.).

reactant | 2-fluoro-3-trifluoromethylbenzaldehyde | 26 mmol, 5 g | FC1=C(C=O)C=CC=C1C(F)(F)F | C8H4F4O
reactant | hydrazine hydrate | 260 mmol, 8.3 mL | O.NN
catalyst | DMAP | 26 mmol, 3.17 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 7-(trifluoromethyl)-1H-indazole | 4.5 g | FC(C=1C=CC=C2C=NNC12)(F)F | C8H5F3N2
